US05688946
In an analogous manner to that described above, by reacting ethyl 2-benzyl-3-chlorosulphonylpropionate with L-proline tert-butyl ester in the presence of triethylamine there is obtained 1-[[(RS)-2-(ethoxycarbonyl)-3-phenylpropyl]sulphonyl]-L-proline tert-butyl ester which is converted into (S)-α-[[[(S)-2-(tert-butyloxycarbonyl)-1-pyrrolidinyl]sulphonyl]methyl]hydrocinnamic acid by enzymatic hydrolysis using α-chymotrypsin.

reactant | ethyl 2-benzyl-3-chlorosulphonylpropionate | C(C1=CC=CC=C1)C(C(=O)OCC)CS(=O)(=O)Cl | C12H15ClO4S
reactant | L-proline tert-butyl ester | C(C)(C)(C)OC([C@H]1NCCC1)=O | C9H17NO2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-[[(RS)-2-(ethoxycarbonyl)-3-phenylpropyl]sulphonyl]-L-proline tert-butyl ester | C(C)(C)(C)OC([C@H]1N(CCC1)S(=O)(=O)CC(CC1=CC=CC=C1)C(=O)OCC)=O | C21H31NO6S
